US08686189B2
N-(5-Chloropyridin-2-yl)-N′-[(1S,2R,4S)-4-(dimethylcarbamoyl)-2-{[(5-methyl-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-yl)carbonyl]amino}cyclohexyl]ethanediamide
Methanesulfonic acid (66 mL) was added at room temperature to a suspension of t-butyl[(1R,2S,5S)-2-({[(5-chloropyridin-2-yl)amino](oxo)acetyl}amino)-5-(dimethylaminocarbonyl)cyclohexyl]carbamate (95.1 g) in acetonitrile (1,900 mL), and the mixture was stirred at the same temperature for 2 hours. Triethylamine (155 mL), 5-methyl-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxylic acid hydrochloride (52.5 g), 1-hydroxybenzotriazole (33.0 g), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (46.8 g) were added to the reaction mixture under ice-cooling, and the mixture was stirred at room temperature for 16 hours. Triethylamine and water were added thereto, followed by stirring under ice-cooling for 1 hour. The formed crystals were recovered by filtration, to thereby yield 103.2 g of the title compound.

reactant | Methanesulfonic acid | 66 mL | CS(=O)(=O)O | CH4O3S
reactant | t-butyl[(1R,2S,5S)-2-({[(5-chloropyridin-2-yl)amino](oxo)acetyl}amino)-5-(dimethylaminocarbonyl)cyclohexyl]carbamate | 95.1 g | C(C)(C)(C)OC(N[C@H]1[C@H](CC[C@@H](C1)C(=O)N(C)C)NC(C(=O)NC1=NC=C(C=C1)Cl)=O)=O | C21H30ClN5O5
reactant | 5-methyl-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxylic acid hydrochloride | 52.5 g | Cl.CN1CC2=C(CC1)N=C(S2)C(=O)O
reactant | 1-hydroxybenzotriazole | 33.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 46.8 g | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | 1,900 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 155 mL | C(C)N(CC)CC | C6H15N
product | N-(5-Chloropyridin-2-yl)-N′-[(1S,2R,4S)-4-(dimethylcarbamoyl)-2-{[(5-methyl-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-yl)carbonyl]amino}cyclohexyl]ethanediamide | ClC=1C=CC(=NC1)NC(C(=O)N[C@@H]1[C@@H](C[C@H](CC1)C(N(C)C)=O)NC(=O)C=1SC=2CN(CCC2N1)C)=O | C24H30ClN7O4S
